US06673804B1
(1) N-(4-Phenoxybenzenesulfonyl)serinol
After triethylamine (10.12 g, 100 mmol) was added dropwise to a solution of serinol (3.64 g, 40 mmol) in a mixture of dioxane (100 ml) and water (200 ml), the mixture was stirred at room temperature for 30 minutes. To the reaction mixture, a solution of 4-phenoxybenzenesulfonyl chloride (10.75 g, 40 mmol) in dioxane (100 ml) was added dropwise and this was stirred for 3 hours. Most of the solvent was evaporated under reduced pressure and the residue was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford the desired compound (10.62 g, yield 82%) as a white powder.

reactant | triethylamine | 100 mmol, 10.12 g | C(C)N(CC)CC | C6H15N
reactant | serinol | 40 mmol, 3.64 g | NC(CO)CO | C3H9NO2
reactant | 4-phenoxybenzenesulfonyl chloride | 40 mmol, 10.75 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO3S
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 200 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-(4-Phenoxybenzenesulfonyl)serinol | 10.62 g, yield 82% | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)NC(CO)CO | C15H17NO5S
